US06034252
2,5-Dimethylthiophene (8 g, 71.4 mmol) and methyl chloroformylbutyrate (10 g, 65.8 mmol) are dissolved in 40 mL 1,2-dichloroethane. The reaction mixture is then cooled to -10° C. AlCl3 was added in portion in 15 min. The resulting mixture is stirred at 0° C. for another 1 hr., poured into ice and concentrated HCl (3:1), and extracted with dichloromethane. The organic layer is washed with 10% HCl, water and 5% sodium bicarbonate. It is then dried over sodium sulfate and the solvent evaporated under reduced pressure. The resulting yellow oil is redissolved in 60 mL triethyleneglycol with 20 mL 80% hydrazine and 20 g KOH. The reaction mixture is then heated to 140° C. for 10 min. and then to 180° C. to distill off the remaining hydrazine and water. The mixture is maintained at 205° C. overnight. After the reaction is cooled to room temperature, it is diluted with water, acidified with conc. HCl and extrated with ether. The ether layer is washed exaustively with water and dried over sodium sulfate. Evaporation of the solvent under reduced pressure yields 5-(2,5-dimethyl-3-thiophenyl)pentanoic acid as a brown oil (12 g, 86%) 1H NMR (CDCl3) 6.45 (s, 1 H), 2.50-2.10 (m, 10 H), 1.83-1.55 (m, 4 H).

reactant | 2,5-Dimethylthiophene | 71.4 mmol, 8 g | CC=1SC(=CC1)C | C6H8S
reactant | methyl chloroformylbutyrate | 65.8 mmol, 10 g | ClC(=O)C(C(=O)OC)CC | C6H9ClO3
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | 5-(2,5-dimethyl-3-thiophenyl)pentanoic acid | 12 g, 86% | CC=1SC(=CC1CCCCC(=O)O)C | C11H16O2S
